Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Fever 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year-old man with unresectable acinar cell 
carcinoma of the pancreas, s/p 6 cycles of 
gemcitabine/cyberknife therapy, now on ___ line therapy with 
capecitabine/gemcitabine, who presents from clinic with fevers 
and chills at home. The patient reports that he was in his usual 
state of health until yesterday afternoon, when he developed a 
temperature to 101.7. He states that he subsequently took 
tylenol, however was unable to keep his temperature down. He 
denies any associated symptoms including SOB, cough, nausea, 
vomiting, diarrhea, or urinary symptoms.  
.  
This morning, the patient called his oncologist to state that he 
wasn't feeling well. He was instructed to come into clinic for 
chemotherapy. Upon presentation to clinic, his initial 
temperature was 102.6. Blood and urine cultures were sent. Labs 
significant for an ANC of 4500 and a negative UA. He received 
2000mg of aztreonam IV and IV vancomycin (PCN allergy).  
.  
On the floor, the patient reports feeling cold. He states that 
he has been sweating throuhgout the day. He denies any other 
localizing symptoms, including abdominal pain.  

 
Past Medical History:
Past Oncologic History: (per OMR)  
- presented with epigastric discomfort in ___. 
Subsequently had an endoscopy, which showed an abnormal area of 
the pancreatic body. Multiple imaging studies indicated there 
was a dilated pancreatic duct on the back half of the gland. 
Endoscopic ultrasound examinations delineated the potential mass 
in the pancreatic head area. This was aspirated on two different 
occasions ___ and ___ by EUS examination and on  

both occasions there was insufficient material to make a  
diagnosis.  
- underwent surgical exploration (___), tissue biopsy 
showed pancreatic acinar cell carcinoma. Pt subsequently had an 
open cholecystectomy, and Cyberknife gold fiducial seeds were 
placed.  
-He was started on chemotherapy with gemcitabine 1000 mg/m2 on 
___. Pt has now had 6 cycles of gemcitabine as well as 
cyberknife therapy (stopped ~3 months ago).  
.  
TREATMENT: (per OMR)  
FIRST LINE - status post 6 cycles Gemcitabine (1000mg/m2. D1, 
D8,  
D15, 4 week cycle), started ___, last dose ___ 
interval definitive cyberknife therapy in ___.  
-___ admitted for abdominal pain, nausea/vomiting. EGD on  
___ showed concern for tumor involvement in duodenum.  
-___ celiac plexus neurolysis  
-___ indwelling catheter placed  
SECOND LINE - ___ started gemcitabine/capecitabine (gem  
1000mg/m2 D1,D8; capecitabine 1000mg po bid D1-14; 3 week 
cycle).  
C1D1; However, Xeloda not started at this time since delay in  
obtaining medication.  
___ - C2D1 gemcitabine/capectabine  
___ - C3D1 gemcitabine/capectabine  
___ - C4 start held because pt fever/chills - w/u neg for  
infectious cause. ___ CT shows stable disease but new 
splenic  
infarct.  
___ - C4D1  
___ - C5D1  
___ - C6D1  
___ C7D1  
___ C8D1  
___ C9D1  
___ C10D1  
.  
Other Past Medical History: (per OMR)  
Hypertension  
kidney stones  
mild hyperglycemia  
pancreatic cancer  
adhesive capsulitis of left shoulder  
biliary obstruction s/p stent placement  
.  

 
Social History:
___
Family History:
Father died of liver cancer at ___.  
Mother died of a stroke in her ___.  She may have had coronary 
artery disease in her ___.  
He has several siblings, one sister has hypertension.
 
Physical Exam:
EXAM ON ADMISSION:
VS: 101.0 120/70 96 18 97%RA  
GEN: AOx3, NAD  
HEENT: PERRLA. MMM. no LAD. no JVD. Neck supple.  
Cards: RRR, S1/S2 normal. no murmurs/gallops/rubs.  
Pulm: No dullness to percussion, CTAB no crackles or wheezes  
Abd: soft, NT, +BS. no rebound/guarding. neg HSM. Well-healed 
horizonal scar across epigastrum.  
Extremities: wwp, no edema. DPs, PTs 2+.  
Skin: no rashes or bruising  
Neuro/Psych: CNs II-XII intact. ___ strength in U/L extremities. 
DTRs 2+ ___. sensation intact to LT, cerebellar fxn intact (FTN). 
 

 
Pertinent Results:
LABS ON ADMISSION:
___ 11:20AM BLOOD WBC-5.3 RBC-3.47* Hgb-11.0* Hct-33.0* 
MCV-95 MCH-31.7 MCHC-33.3 RDW-18.3* Plt ___
___ 11:20AM BLOOD Neuts-87* Bands-0 Lymphs-7* Monos-6 Eos-0 
Baso-0 ___ Myelos-0
___ 11:20AM BLOOD Hypochr-NORMAL Anisocy-2+ Poiklo-NORMAL 
Macrocy-2+ Microcy-NORMAL Polychr-OCCASIONAL
___ 11:20AM BLOOD ___ PTT-25.0 ___
___ 11:20AM BLOOD ___ ___
___ 11:20AM BLOOD UreaN-25* Creat-1.0 Na-136 K-3.6 Cl-100 
HCO3-26 AnGap-14
___ 11:20AM BLOOD Albumin-4.5 Calcium-9.4 Phos-2.1*# Mg-1.8
___ 11:20AM BLOOD ALT-30 AST-27 LD(LDH)-156 AlkPhos-71 
TotBili-1.1
.
MICROBIOLOGY: 
URINE CULTURE (Prelim): ESCHERICHIA COLI. 10,000-100,000 
ORGANISMS/ML.
BLOOD CULTURE: PENDING
.
IMAGING:
CXR: PA AND LATERAL CHEST: Normal heart, lungs, hila, 
mediastinum and pleural surfaces aside from small region of 
atelectasis in the lingula. No evidence of intrathoracic 
malignancy or infection. 

 
Brief Hospital Course:
Mr. ___ is a ___ year-old man with unresectable acinar cell 
carcinoma of the pancreas, status post 6 cycles of gemcitabine 
and cyberknife therapy, developed local progression with 
duodenal invasion, now on second line therapy with capecitabine 
and gemcitabine who presents with fever/chills.  
.  
# Fever: Patient without any localizing symptoms on history or 
exam. No HD instability. UCx returned with ___ colonies of 
E.coli despite negative UA. Patient was started on ciprofloxacin 
to complete a five day course. Liver function panel within 
normal limits. Blood cultures were negative at the time of 
discharge. CXR negative.  At the time of discharge, the patient 
had remained afebrile for greater than 24 hours.
.  
# Pancreatic CA: Patient is status-post 6 cycles of gemcitabine 
and cyberknife therapy, now on second line therapy with 
capecitabine/gemcitabine. CT scan in ___ showed no further 
progression of disease. Patient was instructed to hold Xeloda 
until follow-up. The patient will follow-up with his outpatient 
oncologist, Dr. ___.
.  
# DM: Metformin held at presentation. His blood sugars were 
well-controlled on an ISS.  
.  
# HTN: Normotensive on floor. Patient not currently taking 
anti-hypertensives.  
.  
# Outstanding Labs: Blood cultures (___)
 
Medications on Admission:
CAPECITABINE [XELODA] - 500 mg Tablet - 2 Tablet(s) by mouth 
twice a day Take for 14 days, then stop for 7 days. Repeat as 
instructed by MD.  
METFORMIN - 500 mg Tablet - 1 Tablet(s) by mouth twice a day 
Take 2 tab in AM , 1 tab in ___  
ONDANSETRON - (Prescribed by Other Provider) - 4 mg Tablet, 
Rapid Dissolve - 1 (One) Tablet(s) by mouth every eight (8) 
hours as needed for nausea  
PROCHLORPERAZINE MALEATE - 5 mg Tablet - 1 Tablet(s) by mouth 
every six (6) hours as needed for nausea  
ZOLPIDEM - 10 mg Tablet - 1 Tablet(s) by mouth daily as needed 
for insomnia  
ACETAMINOPHEN - (OTC) - 325 mg Tablet - Tablet(s) by mouth every 
six (6) hours as needed for fever or pain  
ASPIRIN - 81 mg daily  

 
Discharge Medications:
1. Xeloda 500 mg Tablet Sig: One (1) Tablet PO twice a day: AS 
DIRECTED BY YOUR ONCOLOGIST.  
2. metformin 500 mg Tablet Sig: Two (2) Tablet PO every morning. 
 
3. metformin 500 mg Tablet Sig: One (1) Tablet PO every evening. 
 
4. ondansetron 4 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
Rapid Dissolve PO Q8H (every 8 hours) as needed for nausea.  
5. prochlorperazine maleate 5 mg Tablet Sig: One (1) Tablet PO 
every six (6) hours as needed for nausea.  
6. zolpidem 10 mg Tablet Sig: One (1) Tablet PO at bedtime.  
7. acetaminophen 325 mg Tablet Sig: One (1) Tablet PO every six 
(6) hours as needed for pain.  
8. aspirin  Oral
9. ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO twice a 
day for 5 days.
Disp:*10 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
- Urinary Tract Infection

Secondary Diagnosis:
- Pancreatic Cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
It was a pleasure taking care of you at ___ 
___. You were admitted to the hospital with fevers 
and chills. These fevers may be due to a urinary tract 
infection, which you will be treated for with antibiotics.
.
Please START the following medication:
CIPROFLOXACIN 500 mg twice daily for five days
.
Please continue all your medications as they have been 
prescribed. Should you experience any symptoms that concern you 
after leaving the hospital, please call Dr. ___.
 
Followup Instructions:
___